US08859566B2
A mixture of 5-amino-4,6-dichloro pyrimidine (3.0 g, 0.018 mol) and allyl amine (1.5 ml, 0.020 mol) was taken in ethanol (30 ml) and heated at 80° C. for 16 hrs. Solvent was removed to get crude product which was further purified by column chromatography to get pure N*4*-Allyl-6-chloro-pyrimidine-4,5-diamine as off white solid (2.30 g, 68%).

reactant | 5-amino-4,6-dichloro pyrimidine | 0.018 mol, 3.0 g | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | allyl amine | 0.020 mol, 1.5 ml | C(C=C)N | C3H7N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N*4*-Allyl-6-chloro-pyrimidine-4,5-diamine | C(C=C)NC1=NC=NC(=C1N)Cl | C7H9ClN4
